US20010006969A1
2-Allylamino-4-(2-t-butylhydrazino)-7-methylthieno[3,2-d] pyrimidine
270 mg (1.0 mmol) of 4-(2-t-butylhydrazino)-2-chloro-7-methylthieno[3,2-d]pyrimidine and 914 mg (16.0 mmol) of allylamine were heated in a sealed tube at 140° C. for 16 hours. After completion of the reaction, the reaction mixture was allowed to resume room temperature, followed by adding a saturated aqueous sodium hydrogen carbonate solution thereto and extraction with ethyl acetate (50 ml×2). After the organic layer was washed with brine and dried over anhydrous sodium sulfate, the solvent was distilled off. The residue was purified by a silica gel chromatography (eluent: ethyl acetate-hexane=¼] to give 92 mg (yield: 31.6%) of the title compound.

reactant | 4-(2-t-butylhydrazino)-2-chloro-7-methylthieno[3,2-d]pyrimidine | 1.0 mmol, 270 mg | C(C)(C)(C)NNC=1C2=C(N=C(N1)Cl)C(=CS2)C | C11H15ClN4S
reactant | allylamine | 16.0 mmol, 914 mg | C(C=C)N | C3H7N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-Allylamino-4-(2-t-butylhydrazino)-7-methylthieno[3,2-d] pyrimidine | 92 mg, yield: 31.6% | C(C=C)NC=1N=C(C2=C(N1)C(=CS2)C)NNC(C)(C)C | C14H21N5S
